US07524852B2
Synthesis of 2-(4-methylpiperazin-1-ylmethyl)morpholine for use in the synthesis of Compound 20-2
Lithium aluminum hydride (150 mg, 4.10 mmol) was suspended in tetrahydrofuran (5 mL), and the suspension was mixed with a solution of tert-butyl 4-morpholin-2-ylmethylpiperazinecarboxylate (390 mg, 1.37 mmol) prepared as an intermediate according to Process Step 2 of Reference Example 19 in tetrahydrofuran (5 mL) added dropwise under ice-cooling, followed by heating at 60° C. under reflux for two hours. An aqueous sodium hydroxide solution (2 mol/L, 10 mL) and chloroform (50 mL) were added under ice-cooling, followed by separation. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure, to thereby yield the title compound (180 mg, in a yield of 66%).

reactant | Lithium aluminum hydride | 4.10 mmol, 150 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tert-butyl 4-morpholin-2-ylmethylpiperazinecarboxylate | 1.37 mmol, 390 mg | N1CC(OCC1)CN1CCN(CC1)C(=O)OC(C)(C)C | C14H27N3O3
reactant | sodium hydroxide | 2 mol/L, 10 mL | [OH-].[Na+]
reactant | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(4-methylpiperazin-1-ylmethyl)morpholine | yield of 66% | CN1CCN(CC1)CC1CNCCO1 | C10H21N3O
